US09403798B2
4-[4-(4-Fluorophenyl)piperazin-1-yl]-6-(hydroxymethyl)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
The synthesis was performed using [4-(methylthio)-6-oxo-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,6-dihydro-1,3,5-triazin-2-yl]methyl acetate synthesized in Reference Synthesis Example 330 and 1-(4-fluorophenyl)piperazine in a similar manner to Reference Synthesis Example 348 to obtain the title compound (yield: 15%) of Synthesis Example 458a and the title compound (yield: 65%) of Synthesis Example 458b.

reactant | [4-(methylthio)-6-oxo-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,6-dihydro-1,3,5-triazin-2-yl]methyl acetate | C(C)(=O)OCC=1N(C(N=C(N1)SC)=O)CC=1SC(=CC1)C(F)(F)F | C13H12F3N3O3S2
reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 4-[4-(4-Fluorophenyl)piperazin-1-yl]-6-(hydroxymethyl)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | yield: 15% | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(N(C(=N1)CO)CC=1SC(=CC1)C(F)(F)F)=O | C20H19F4N5O2S
